US05869485
0.8 g of 4-(3,4-methylenedioxyphenyl)-1-(3-ethoxyphenyl)-2-amino-3-cyanopyrrole is heated at 160° C. for 6 h in a mixture of 8 ml of formamide, 4 ml of formic acid and 1.5 ml of DMF. After cooling to RT the mixture is treated with water and the crystals obtained are filtered off, washed with water and dried. After chromatography on silica gel (EA/hexane 3:4), the product-containing fractions are concentrated, slurried in ether and filtered. After repeated chromatography on silica gel (methylene chloride/methanol containing NH3 (4N) 97:3), the product-containing fractions are concentrated. The residue is slurried with ether/EA and the crystals are filtered off. 5-(3,4-Methylenedioxyphenyl)-7-(3-ethoxyphenyl)-4-aminopyrrolo-[2,3-d]pyrimidine having a melting point of 153°-155° C. is obtained. 1H--NMR (d6 -DMSO): delta (ppm)=1.35 (t, 3H), 4.1 (q, 2H), 6.1 (s, 2H), 6.25 (br. s, 2H), 6.9 br. d, 1H), 7.0 (m, 2H), 7.1 (s, 1H), 7.4-7.5 (m, 3H), 7.7 (s, 1H), 8.2 (s, 1H).

reactant | 4-(3,4-methylenedioxyphenyl)-1-(3-ethoxyphenyl)-2-amino-3-cyanopyrrole | 0.8 g | C1OC=2C=C(C=CC2O1)C=1C(=C(N(C1)C1=CC(=CC=C1)OCC)N)C#N | C20H17N3O3
reactant | formic acid | 4 ml | C(=O)O | CH2O2
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | water | O | H2O
reactant | formamide | 8 ml | C(=O)N | CH3NO
product | 5-(3,4-Methylenedioxyphenyl)-7-(3-ethoxyphenyl)-4-aminopyrrolo-[2,3-d]pyrimidine | C1OC=2C=C(C=CC2O1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCC | C21H18N4O3
